US03952031
2β-Methoxy-3α-trifluoroacetoxy-5α-pregnane-11,20-dione
A solution of 3α-hydroxy-2β-methoxy-5α-pregnane-11,20 -dione (500 mg.) in methylene chloride (20 ml.) was treated with a solution of trifluoroacetic anhydride (0.6 ml.) in methylene chloride (10 ml.) at 0°. The mixture was allowed to warm to room temperature and stirred for 21/2 hours. The solution was diluted with methylene chloride, washed with water, saturated sodium bicarbonate solution and again with water, dried and evaporated to a foam. Purification by tlc gave the title compound (440 mg.) [α]D + 109°.

reactant | 3α-hydroxy-2β-methoxy-5α-pregnane-11,20 -dione | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1OC)C)=O)C | C22H34O4
reactant | trifluoroacetic anhydride | 0.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2β-Methoxy-3α-trifluoroacetoxy-5α-pregnane-11,20-dione | 440 mg | CO[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)OC(C(F)(F)F)=O | C24H33F3O5
